US05650513
N-Cyclohexylperylene-3,4-dicarboximide
0.30 g (0.93 mmol) of perylene-3,4-dicarboxylic anhydride is mixed with 0.28 g (2.8 mmol) of cyclohexylamine and 3 g of imidazole, and the mixture is heated under nitrogen at 140° C. for 3 h. The reaction product is removed from the flask by washing with ethanol, treated with 200 ml of 10% hydrochloric acid and boiled until no more ethanol is present. The residue is filtered off with suction, boiled in potassium carbonate solution and again filtered off with suction. The residue is washed with hot water until the filtrate is hardly coloured any more and then dried in a drying cabinet at 120° C. The orange shiny powder thus obtained is recrystallized twice by extraction with methanol. Yield 0.30 g (80%) of orange small crystals, strong red solid fluorescence, m.p. 370°-372° C. Rf (CHCl3 /silica gel)=0.41. UV (CHCl3): λmax (ε)=505 (29970), 483 (30309), 354 (3160), 336 (3160), 294 (3300), 264 (29090). Fluorescence (CHCl3): λmax (Irel)=539 (1), 567 (0.51).

reactant | perylene-3,4-dicarboxylic anhydride | 0.93 mmol, 0.30 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(=O)OC2=O | C22H10O3
reactant | cyclohexylamine | 2.8 mmol, 0.28 g | C1(CCCCC1)N | C6H13N
reactant | imidazole | 3 g | N1C=NC=C1 | C3H4N2
product | N-Cyclohexylperylene-3,4-dicarboximide | C1(CCCCC1)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C28H21NO2
